US08389523B2
27.2 g (88 mmol) of ethyl 1-(6-methylpyridine-2-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in 1,4-dioxane (50 ml) and water (50 ml), and 18.3 g (0.13 mol) of potassium carbonate was added thereto, and the solution was stirred for 1 hour at 60° C. The solvent was distilled off under reduced pressure and the aqueous layer was adjusted to pH <4. The precipitated crystals were filtered to obtain 23.3 g (yield: 94%) of 1-(6-methylpyridine-2-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid.

reactant | ethyl 1-(6-methylpyridine-2-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 88 mmol, 27.2 g | CC1=CC=CC(=N1)N1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C17H15N3O3
reactant | potassium carbonate | 0.13 mol, 18.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1-(6-methylpyridine-2-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 23.3 g, yield: 94% | CC1=CC=CC(=N1)N1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C15H11N3O3
